US09120761B2
(g) Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-methoxyphenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I22)
A solution of tert-butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I21) (210 mg, 0.334 mmol) and LiOH.H2O (42 mg, 1.0 mmol) in THF (10 mL), water (2 mL) and MeOH (1 mL) was stirred at room temperature for 20 hours. The volatiles were evaporated under reduced pressure to give the title compound (I22) as a light yellow solid, 300 mg, excess mass due to inorganic salts present. LCMS Method C: rt 7.31 min; m/z 615.1 [M+1]+, 613.2 [M−1]−.

reactant | tert-butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.334 mmol, 210 mg | COC=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C33H39F3N4O5
reactant | LiOH.H2O | 1.0 mmol, 42 mg | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
product | Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-methoxyphenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F)OC.[Li+] | InChI=1S/C32H37F3N4O5.Li/c1-31(2,3)44-30(42)39-15-13-21(14-16-39)23-10-12-26(27(17-23)43-4)38-29-36-19-24(32(33,34)35)25(37-29)11-9-20-7-5-6-8-22(20)18-28(40)41;/h5-8,10,12,17,19,21H,9,11,13-16,18H2,1-4H3,(H,40,41)(H,36,37,38);/q;+1/p-1
